US04113871
The ester hydrochloride used as starting material is prepared in the following manner: N-acetyl-4-acetylamphetamine (m.p. 99°-100° C.) is oxidized to 4-(2-acetamidopropyl)-benzoic acid (m.p. 207°-208° C.), this is reduced to give 4-(2-acetamidopropyl)-benzyl alcohol (oil) which is then oxidized to 4-(2-acetamidopropyl)-benzaldehyde (m.p. 84°-86° C.) and this is condensed with malonic acid to give 4-(2-acetamidopropyl)-cinnamic acid (m.p. 207°-208° C.) which is hydrogenated to give β-[4-(2-acetamidopropyl)-phenyl]-propionic acid (m.p. 93°-96° C.). Subsequent acid hydrolysis gives the hydrochloride of β-[4-(2-aminopropyl)-phenyl]-propionic acid which is esterified to give the above-mentioned ethyl ester hydrochloride.

reactant | N-acetyl-4-acetylamphetamine | C(C)(=O)NC(C)CC1=CC=C(C=C1)C(C)=O | C13H17NO2
reactant | 4-(2-acetamidopropyl)-benzoic acid | C(C)(=O)NC(CC1=CC=C(C(=O)O)C=C1)C | C12H15NO3
product | 4-(2-acetamidopropyl)-benzyl alcohol | C(C)(=O)NC(CC1=CC=C(CO)C=C1)C | C12H17NO2
